US06387915B2
N-[4-(1,3-benzodioxol-5-yl)-3-(2-hydroxyethoxy)-5-isoxazolyl]-4-(tert-butyl)benzenesulfonamide
To a stirring solution of 2-({5-[{[4-(tert-butyl)phenyl]sulfonyl}(isobutoxycarbonyl)amino]-4-iodo-3-isoxazolyl}oxy)ethyl Acetate (Preparation 5) (2.41 g) in dioxane (25 mL) was added 3,4-methylenedioxybenzeneboronic acid (0.72 g) followed by cesium carbonate (5.15 g) and water (3 mL). The reaction mixture was purged with nitrogen three times, after which time tetrakis(triphenylphosphine)-palladium(O) (140 mg). The reaction mixture was heated to reflux for about 2 hours. Ethanol (50 mL) and sodium hydroxide (2M, 50 mL) were added to the reaction mixture and then this was stirred at room temperature overnight. The reaction mixture was concentrated in vacuo and the solid residue was partitioned between saturated ammonium chloride solution (100 mL) and ethyl acetate (100 mL). The organics were washed with brine (50 mL), dried over sodium, sulfate and concentrated under reduced pressure to yield the crude material as a brown oil. The crude material was purified by column chromatography (100 g silica) using a gradient elution of hexane (50% to 0%) and ethyl acetate (50% to 100%) and also with methanol (5% in ethyl acetate) to yield the product as a light brown foam (770 mg).

reactant | 2-({5-[{[4-(tert-butyl)phenyl]sulfonyl}(isobutoxycarbonyl)amino]-4-iodo-3-isoxazolyl}oxy)ethyl Acetate | 2.41 g | C(C)(=O)OCCOC1=NOC(=C1I)N(C(=O)OCC(C)C)S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C | C22H29IN2O8S
reactant | 3,4-methylenedioxybenzeneboronic acid | 0.72 g | C1OC=2C=C(C=CC2O1)B(O)O | C7H7BO4
reactant | cesium carbonate | 5.15 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 3 mL | O | H2O
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | N-[4-(1,3-benzodioxol-5-yl)-3-(2-hydroxyethoxy)-5-isoxazolyl]-4-(tert-butyl)benzenesulfonamide | 770 mg | O1COC2=C1C=CC(=C2)C=2C(=NOC2NS(=O)(=O)C2=CC=C(C=C2)C(C)(C)C)OCCO | C22H24N2O7S
